US07071175B1
N-Chlorosuccinimide (21.7 g, 0.162 mol) was added to a suspension of 6-amino-nicotinic acid ethyl ester (18.0 g, 0.108 mol) in acetonitrile (270 ml) and the mixture was refluxed for 2 h. The reaction mixture was filtered and concentrated under reduced pressure. The residue was dissolved in dichloromethane, washed with water and dried. Flash chromatography (2.5% MeOH in CH2Cl2) gave pure 6-amino-5-chloro-nicotinic acid ethyl ester (17.23 g, 79%).

reactant | N-Chlorosuccinimide | 0.162 mol, 21.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-amino-nicotinic acid ethyl ester | 0.108 mol, 18.0 g | C(C)OC(C1=CN=C(C=C1)N)=O | C8H10N2O2
solvent | acetonitrile | 270 ml | C(C)#N | C2H3N
product | 6-amino-5-chloro-nicotinic acid ethyl ester | 17.23 g, 79% | C(C)OC(C1=CN=C(C(=C1)Cl)N)=O | C8H9ClN2O2
